US05716954
To a solution of 2-(3-nitrobenzoyl)-3-methoxycarbonylpyridine (0.26 g, 0.97 mmoles) dissolved in ethanol (50 ml), was added phenylhydrazine (0.25 ml, 2.4 mmoles). The mixture was refluxed for 168 hours. The solvent was removed and the solid was precipitated from ethanol and dried, yielding 0.07 g of 6-phenyl-8-(3-nitrophenyl) pyrido[2,3-d]pyridazin-5-one (21%), mp 167° C.

reactant | 2-(3-nitrobenzoyl)-3-methoxycarbonylpyridine | 0.97 mmoles, 0.26 g | [N+](=O)([O-])C=1C=C(C(=O)C2=NC=CC=C2C(=O)OC)C=CC1 | C14H10N2O5
reactant | phenylhydrazine | 2.4 mmoles, 0.25 ml | C1(=CC=CC=C1)NN | C6H8N2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 6-phenyl-8-(3-nitrophenyl) pyrido[2,3-d]pyridazin-5-one | 0.07 g, 21% | C1(=CC=CC=C1)N1N=C(C2=C(C1=O)C=CC=N2)C2=CC(=CC=C2)[N+](=O)[O-] | C19H12N4O3
